US06566384B1
1-(3-Bromo-propoxy)-4-chloro-benzene
To a solution of 4-chlorophenol (5.0 g, 38.9 mmol) in dry THF (80 ml) under nitrogen cooled to 0° C. was added portionwise sodium hydride (60% in mineral oil, 171 g, 42.8 mmol). After stirring at 0° C. for 15 mins and room temperature for 30 mins, this mixture was added to a solution of 1,3-dibromopropane (4 ml, 77.8 mmol) in THF (20 ml) under nitrogen cooled to 0° C. The reaction mixture was stirred at room temperature for 30 mins and then heated at reflux for 5 hours. Saturated ammonium chloride solution (50 ml) was added and the mixture concentrated in vacuo. The residue was partitioned between ethyl acetate (150 ml) and water (150 ml). The organic layer was washed with brine (150 ml), dried over magnesium sulphate, filtered and concentrated in vacuo. Purification was by flash chromatography on silica eluting with dichloromethane afforded the title compound as a clear oil (2.6 g, 30%).

reactant | 4-chlorophenol | 38.9 mmol, 5.0 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium hydride | 42.8 mmol, 171 g | [H-].[Na+]
reactant | 1,3-dibromopropane | 77.8 mmol, 4 ml | BrCCCBr | C3H6Br2
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-(3-Bromo-propoxy)-4-chloro-benzene | 2.6 g, 30% | BrCCCOC1=CC=C(C=C1)Cl | C9H10BrClO
